US08431578B2
Step C: 4-(5-Bromo-pyridin-3-yl)-6-tert-butyl-2-pyridin-2-yl-pyrimidine
To a solution of 1-(5-bromo-pyridin-3-yl)-4,4-dimethyl-pent-1-yn-3-one (1 eq, 770 mg, 2.89 mmol) in THF (12 ml) is added pyridine-2-carboxamidine (1.5 eq, 684 mg, 4.34 mmol) and Na2CO3 (2.4 eq, 736 mg, 6.94 mmol). The resulting mixture is heated using microwave radiation for 1 h at 150° C. The solvent is removed in vacuo and the residue is partitioned between sat. aqueous NaHCO3 solution and DCM. The organic portion is dried (MgSO4) and concentrated in vacuo. The resulting residue is purified using column chromatography (DCM/MeOH) to give the title compound; [M+H]+=369/371.

reactant | 1-(5-bromo-pyridin-3-yl)-4,4-dimethyl-pent-1-yn-3-one | 2.89 mmol, 770 mg, 1 eq | BrC=1C=C(C=NC1)C#CC(C(C)(C)C)=O | C12H12BrNO
reactant | pyridine-2-carboxamidine | 4.34 mmol, 684 mg, 1.5 eq | N1=C(C=CC=C1)C(=N)N | C6H7N3
reactant | Na2CO3 | 6.94 mmol, 736 mg, 2.4 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 4-(5-Bromo-pyridin-3-yl)-6-tert-butyl-2-pyridin-2-yl-pyrimidine | BrC=1C=C(C=NC1)C1=NC(=NC(=C1)C(C)(C)C)C1=NC=CC=C1 | C18H17BrN4
